US08975398B2
ethyl 1-methyl-5-(4-nitrophenyl)-1H-pyrazole-3-carboxylate
Ethyl 4-(4-nitrophenyl)-2,4-dioxobutanoate (500 mg, 1.885 mmol) was dissolved in hexafluoroisopropanol (4 ml) and methylhydrazine (87 mg, 1.885 mmol) was added dropwise. The reaction mixture was stirred at room temperature for 3 hours, concentrated to dryness, triturated with ether; and filtered to provide the title compound.

reactant | Ethyl 4-(4-nitrophenyl)-2,4-dioxobutanoate | 1.885 mmol, 500 mg | [N+](=O)([O-])C1=CC=C(C=C1)C(CC(C(=O)OCC)=O)=O | C12H11NO6
reactant | methylhydrazine | 1.885 mmol, 87 mg | CNN | CH6N2
solvent | hexafluoroisopropanol | 4 ml | FC(C(C(F)(F)F)O)(F)F | C3H2F6O
product | ethyl 1-methyl-5-(4-nitrophenyl)-1H-pyrazole-3-carboxylate | CN1N=C(C=C1C1=CC=C(C=C1)[N+](=O)[O-])C(=O)OCC | C13H13N3O4
